US08664401B2
Step A) 8-(4-bromophenoxy)-1,4-dioxaspiro[4.5]decane
1,4-dioxaspiro[4.5]decan-8-olref 1 (3.6 g, 20.8 mmol) was added to a solution of 4-bromophenol (3.00 g, 18.96 mmol) in THF (20 mL). Triphenylphosphine (4.96 g, 18.9 mmol) and triethylamine (1.92 g, 18.9 mmol) were added. The resulting solution was cooled to 0° C. and DIAD (3.83 g, 18.9 mmol) was added by dropwise addition. The reaction was maintained at 0° C. for 30 minutes then warmed to room temperature and stirred over night. The reaction was quenched by addition of water and extracted with ether (2×100 mL). The organic layers were combined and washed with 1N NaOH (2×100 mL), then water (2×100 mL). The organic layer was dried (Na2SO4), filtered and concentrated. Purification by flash column chromatography on an Analogix SF40-150 g column (hexanes/ethyl acetate 8:2) afforded the title compound as a white waxy solid (2.83 g, 47%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.58-1.69 (m, 2H) 1.85-1.98 (m, 6H) 3.92-4.02 (m, 4H) 4.33-4.41 (m, 1H) 6.76-6.84 (m, 2H) 7.33-7.40 (m, 2H) Ref 1: Journal of Organic Chemistry, 71(22), 8424-8430; 2006

reactant | 4-bromophenol | 18.96 mmol, 3.00 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | Triphenylphosphine | 18.9 mmol, 4.96 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 18.9 mmol, 1.92 g | C(C)N(CC)CC | C6H15N
reactant | DIAD | 18.9 mmol, 3.83 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | 8-(4-bromophenoxy)-1,4-dioxaspiro[4.5]decane | BrC1=CC=C(OC2CCC3(OCCO3)CC2)C=C1 | C14H17BrO3
